US04695569
A mixture of 5 parts of ethyl ethanimidate hydrochloride, 9 parts of N6 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3,6-pyridinetriamine and 100 parts of acetic acid was stirred overnight at room temperature. The reaction mixture was evaporated. The residue was dissolved in trichloromethane. Water was added and sodium hydrogen carbonate was added till foaming had ceased. The layers were separated. The organic layer was dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 4.8 parts (48.5%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-methyl-1H-imidazo[4,5-b]pyridin-5-amine; mp. 202.0° C. (compound 146).

reactant | ethyl ethanimidate hydrochloride | Cl.C(C)(OCC)=N
reactant | N6 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3,6-pyridinetriamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=CC=C(C(=N2)N)N | C26H31FN8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-methyl-1H-imidazo[4,5-b]pyridin-5-amine | 48.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=CC=C1C(=N2)N=C(N1)C | C28H31FN8
